US08604062B2
Step d) 3-(4-Chloro-phenyl)-isoxazole-4-carboxylic acid
To a solution of 3-(4-chloro-phenyl)-isoxazole-4-carboxylic acid ethyl ester (57.0 g, 226.5 mmol) in ethanol (234 mL) was added aqueous sodium hydroxide (2 N, 175 mL, 351 mmol) and the resulting mixture stirred overnight at room temperature. The mixture was then acidified with HCl solution (4 N, 92.6 mL) to pH 2-3. The precipitate was then filtered off and dissolved in THF (762 mL) and then washed with saturated sodium chloride solution. The aqueous phase was then extracted with ethyl acetate and THF (1:1, 300 mL) and the combined organic phases dried over sodium sulfate and evaporated to afford the title compound (50.7 g, 92%) which was obtained as a light yellow solid. MS: m/e=222.3 [M−H]−.

reactant | 3-(4-chloro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 226.5 mmol, 57.0 g | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)Cl | C12H10ClNO3
reactant | sodium hydroxide | 351 mmol, 2 N, 175 mL | [OH-].[Na+]
reactant | HCl | 4 N, 92.6 mL | Cl | ClH
solvent | ethanol | 234 mL | C(C)O | C2H6O
product | 3-(4-Chloro-phenyl)-isoxazole-4-carboxylic acid | 50.7 g, 92% | ClC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6ClNO3
